US09029536B2
1-Ethyl-3-{4-[(5-methylpyridin-2-yl)oxy]phenyl}-1H-pyrazolo[4,3-b]pyridine
A mixture of 3-[4-(5-chloropyridin-2-yloxy)phenyl]-1-ethyl-1H-pyrazolo[4,3-b]pyridine (58 mg), methylboronic acid (59.4 mg), Pd(dppf)2Cl2 (18 mg) and Cs2CO3 (766 mg) in DME/H2O (4 mL, 3/1) was exposed to microwave irradiation at 140° C. for 1 h, and then Pd(OAc)2 (3.7 mg), Xphos (15.7 mg) and Cs2CO3 (107 mg) were added. The mixture was exposed to microwave irradiation at 140° C. for 1 h, treated with water, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was purified by preparative HPLC (H2O in CH3CN containing 10 mM NH4HCO3). Crystallization from AcOEt/hexane gave title compound (11 mg).

reactant | 3-[4-(5-chloropyridin-2-yloxy)phenyl]-1-ethyl-1H-pyrazolo[4,3-b]pyridine | 58 mg | ClC=1C=CC(=NC1)OC1=CC=C(C=C1)C1=NN(C=2C1=NC=CC2)CC | C19H15ClN4O
reactant | methylboronic acid | 59.4 mg | CB(O)O | CH5BO2
reactant | Cs2CO3 | 766 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Xphos | 15.7 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | Cs2CO3 | 107 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DME H2O | 4 mL | COCCOC.O
catalyst | Pd(dppf)2Cl2 | 18 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | Pd(OAc)2 | 3.7 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | O | H2O
product | 1-Ethyl-3-{4-[(5-methylpyridin-2-yl)oxy]phenyl}-1H-pyrazolo[4,3-b]pyridine | 11 mg | C(C)N1N=C(C2=NC=CC=C21)C2=CC=C(C=C2)OC2=NC=C(C=C2)C | C20H18N4O
